US05861417
Combine methyl 2-methyl-5-aminobenzoate (4.5 g, 27.2 mmol) and triethyl orthoformate (16.2 g, 109 mmol) in glacial acetic acid (25 mL). After 12 hours, add portionwise sodium azide (7.08 g, 109 mmol). Heat to 70° C. After 2 hours, cool the reaction mixture to ambient temperature, dilute with water (250 mL). Collect the solid by filtration, rinse with water, and dry to give methyl 2-methyl-5-(1H-tetrazol-1-yl)benzoate: Rf =0.13 (silica gel, ethyl acetate/hexane 1/4).

reactant | methyl 2-methyl-5-aminobenzoate | 27.2 mmol, 4.5 g | CC1=C(C(=O)OC)C=C(C=C1)N | C9H11NO2
reactant | triethyl orthoformate | 109 mmol, 16.2 g | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 109 mmol, 7.08 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | water | 250 mL | O | H2O
product | methyl 2-methyl-5-(1H-tetrazol-1-yl)benzoate | CC1=C(C(=O)OC)C=C(C=C1)N1N=NN=C1 | C10H10N4O2
